US09212168B2
(a) 4′-{2-[(2S,4S)-1-((S)-2-Methoxycarbonylamino-3-methyl-butyryl)-4-methylsulfanyl-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-carboxylic acid methyl ester
To a mixture of 4-bromo-3-trifluoromethoxy-benzoic acid methyl ester (184 mg, 0.62 mmol), [(S)-2-methyl-1-((2S,4S)-4-methylsulfanyl-2-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (300 mg, 0.55 mmol) and potassium carbonate (344 mg, 2.49 mmol) at RT was added toluene (1.35 mL) followed by water (0.69 mL). The reaction mixture was purged with nitrogen, Pd(dppf)Cl2CH2Cl2 (27.4 mg, 0.034 mmol) was added under an atmosphere of nitrogen. The reaction vial was capped and heated at 100° C. overnight, cooled to RT and partitioned between EtOAc (10 mL) and water (2 mL). The organic layer was dried over sodium sulfate, filtered and concentrated to give a brownish oil which was purified by silica gel chromatography (12 g silica gel, 0-100% EtOAc/Hexanes). Desired fractions were combined and concentrated to give the title intermediate as an orange oil. (m/z): [M+H]+ calcd for C30H33F3N4O6S 635.21. found 635.

reactant | 4-bromo-3-trifluoromethoxy-benzoic acid methyl ester | 0.62 mmol, 184 mg | COC(C1=CC(=C(C=C1)Br)OC(F)(F)F)=O | C9H6BrF3O3
reactant | [(S)-2-methyl-1-((2S,4S)-4-methylsulfanyl-2-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.55 mmol, 300 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)SC)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C27H39BN4O5S
reactant | potassium carbonate | 2.49 mmol, 344 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 1.35 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.69 mL | O | H2O
product | 4′-{2-[(2S,4S)-1-((S)-2-Methoxycarbonylamino-3-methyl-butyryl)-4-methylsulfanyl-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-carboxylic acid methyl ester | COC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(C[C@H](C1)SC)C([C@H](C(C)C)NC(=O)OC)=O)OC(F)(F)F | C30H33F3N4O6S
